US05085689
1.2 g (0.006 mol) of 3,5-dioxo-4-propionylcyclohexanenitrile were dissolved in 40 ml of dry tetrahydrofuran, and 0.4 g (0.006 mol) of isopropylamine was added. The mixture was stirred for 16 hours at room temperature, the solvent was stripped off under reduced pressure and the residue was filtered under suction over a little silica gel using methylene chloride/methanol. The solvent was stripped off to give 1.3 g 92% of theory) of 3,5-dioxo-4-(1-isopropyliminopropyl)-cyclohexanenitrile.

reactant | 3,5-dioxo-4-propionylcyclohexanenitrile | 0.006 mol, 1.2 g | O=C1CC(CC(C1C(CC)=O)=O)C#N | C10H11NO3
reactant | isopropylamine | 0.006 mol, 0.4 g | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3,5-dioxo-4-(1-isopropyliminopropyl)-cyclohexanenitrile | O=C1CC(CC(C1C(CC)=NC(C)C)=O)C#N | C13H18N2O2
